US08022062B2
Use a method similar to the General Procedure 5-2 to couple 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine (455 mg, 1.1 mmol) with 4-(1-methyl-1H-imidazol-2-yl)-benzylamine (240 mg, 1.3 mmol) in toluene (8 mL). Purify by chromatography on silica gel eluting with hexane/EtOAc (10:1, 5:1 and 3:1) followed by SCX chromatography [pre-wash column with methanol followed by DCM, load material dissolved in DCM, then elute with DCM/2M ammonia in methanol (1:1) and concentrate in vacuo] to obtain 7-chloro-6-[4-(1-methyl-1H-imidazol-2-yl)-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (429 mg, 93%). MS (ES+) m/z: 463 (4+H)+.

reactant | 7-chloro-3-(2,2,2-trifluoroacetyl)-6-trifluoromethanesulfonyloxy-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 1.1 mmol, 455 mg | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)OS(=O)(=O)C(F)(F)F | C13H10ClF6NO4S
reactant | 4-(1-methyl-1H-imidazol-2-yl)-benzylamine | 1.3 mmol, 240 mg | CN1C(=NC=C1)C1=CC=C(CN)C=C1 | C11H13N3
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
product | 7-chloro-6-[4-(1-methyl-1H-imidazol-2-yl)-benzylamino]-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 429 mg, 93% | ClC1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)NCC1=CC=C(C=C1)C=1N(C=CN1)C | C23H22ClF3N4O
